US09376396B2
1.1 Trans-[4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester
A mixture of 2-tert-butyl-4-(2-methoxy-ethyl)-6-piperazin-1-yl-pyrimidine (500 mg, 1.796 mmol), trans-[4-(2-oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester (433 mg, 1.796 mmol) and AcOH (108 mg, 1.796 mmol) in DCE (30 ml) was stirred at room temperature for 10 min. Sodium triacetoxyhydroborate (571 mg, 2.69 mmol) was added. After 4 h, water was added. The aqueous layer was extracted with ethyl acetate (3×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the yellow title compound (900 mg, 1.680 mmol, 94% yield) which was used next step without purification.

reactant | 2-tert-butyl-4-(2-methoxy-ethyl)-6-piperazin-1-yl-pyrimidine | 1.796 mmol, 500 mg | C(C)(C)(C)C1=NC(=CC(=N1)CCOC)N1CCNCC1 | C15H26N4O
reactant | trans-[4-(2-oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 1.796 mmol, 433 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC=O)=O | C13H23NO3
reactant | AcOH | 1.796 mmol, 108 mg | CC(=O)O | C2H4O2
reactant | Sodium | [Na] | Na
solvent | DCE | 30 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | Trans-[4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 1.680 mmol, 900 mg, 94% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NC(=NC(=C1)CCOC)C(C)(C)C)=O | C28H49N5O3
